US07388015B2
In an alternative preparation: 4-Fluoro-3-nitro-aniline (20 g, 128 mmol) was dissolved in EtOH (300 mL) and dimethylamine (5.6 M solution in EtOH, 360 mL, 2.02 mol) was added in a steady stream. After refluxing for 18 h, the reaction mixture was cooled and 100 mL water was added. EtOH was removed by evaporation and the residue was extracted with Et2O (3×100 mL). The combined organics were washed with brine, filtered, and the solvent was evaporated to afford 22.8 g of 4-(dimethylamino)-3-nitroaniline as a black oil. This was dissolved in EtOH (80 mL) and HNO3 (69% aq, 18.5 mL, 22.1 mmol) added dropwise followed by cyanamide (50% wt in water, 37 mL, 476 mmol). The mixture was heated at reflux for 18 h. Once cooled, the mixture was poured into Et2I (1 L). The ethereal supernatant was decanted and the residue was treated with propan-2-ol, followed by Et2O to give 19.0 g of the corresponding guanidine nitrate as a tan solid. This was stirred with K2CO3 (15.04 g, 108.8 mmol) in 2-methoxyethanol (250 mL) for 10 min before adding 3-dimethylamino-1-(2,4-dimethylthiazol-5-yl)-propenone (9.53 g, 45.33 mmol). The mixture was heated at 125° C. for 18 h. The reaction mixture was concentrated and diluted with EtOAc, filtered through a pad of silica and evaporated to give a dark oil, which was purified by chromatography, using EtOAc to elute the title product as a reddish solid. Recrystallisation from toluene yielded 7.3 g pure title compounds.

reactant | 4-Fluoro-3-nitro-aniline | 128 mmol, 20 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | dimethylamine | 2.02 mol, 5.6 M, 360 mL | CNC | C2H7N
reactant | water | 100 mL | O | H2O
solvent | EtOH | 300 mL | CCO | C2H6O
product | 4-(dimethylamino)-3-nitroaniline | 22.8 g | CN(C1=C(C=C(N)C=C1)[N+](=O)[O-])C | C8H11N3O2
